US07691836B2
To a solution of (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one (40 mg, 0.081 mmol) in acetonitrile (1 mL) were added 2 N hydrochloric acid (40 μL) and water (5 mL). Lyophilisation of this mixture gave 11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one hydrochloride in quantitative yield (40 mg, 0.08 mmol). 1H NMR (400 MHz, CDCl3): δ 0.34 (s, 3H), 0.80-2.85 (m, 24H), 4.47 (d, J=7 Hz, 1H), 5.81 (s, 1H), 7.31-7.35 (m, 2H), 7.51-7.55 (m, 2H), 7.64 (dd, J=8 and 5 Hz, 1H), 8.18 (dt, J=8 and 1 Hz, 1H), 8.62 (d, J=5 Hz, 1H), 8.90 (d, J=1 Hz, 1H).

reactant | (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one | 0.081 mmol, 40 mg | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C=2C=NC=CC2)=O | C34H37NO2
reactant | hydrochloric acid | 2 N, 40 μL | Cl | ClH
reactant | water | 5 mL | O | H2O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one hydrochloride | quantitative yield | Cl.C1(CC1)C(=O)C1[C@]2(C)[C@@H](CC1C)[C@@H]1CCC3=CC(CCC3=C1C(C2)C2=CC=C(C=C2)C=2C=NC=CC2)=O | InChI=1S/C34H37NO2.ClH/c1-20-16-30-28-13-11-24-17-26(36)12-14-27(24)31(28)29(18-34(30,2)32(20)33(37)23-9-10-23)22-7-5-21(6-8-22)25-4-3-15-35-19-25;/h3-8,15,17,19-20,23,28-30,32H,9-14,16,18H2,1-2H3;1H/t20?,28-,29?,30-,32?,34-;/m0./s1
